US08420640B2
A solution of 5-bromo-2-nitro-N-phenylbenzenamine (1.0 g, 3.4 mmol) and 1-methylpiperazine (1.50 ml, 13.6 mmol) in 15 ml NMP was heated at 100° C. for 16 hours. The reaction was quenched with 100 ml water. The mixture was extracted with ethyl acetate (3×30 ml) and dried over anhydrous sodium sulfate. 5-(4-methylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (0.50 g, 49%) was obtained by flash column chromatograph (10% ethanol in dichloromethane). 5-(4-methylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine hydrochloride was made by bubbling HCl gas in its ethyl ether solution and crystallized. 1H NMR (500 MHz, DMSO-d6) δ (ppm) 2.75 (s, 3H), 3.03 (dd, J=12.9, 12.0 Hz, 2H), 3.29 (dd, J=11.9, 12.9 Hz, 2H), 3.42 (d, J=12.0 Hz, 2H), 3.90 (d, J=12.9, Hz, 2H), 6.48 (d, J=1.5 Hz, 1H), 6.65 (dd, J=2.6, 9.7 Hz, 1H), 7.2 (m, 1H), 7.23-7.45 (m, 4H), 8.06 (d, J=9.7 Hz, 1H), 9.72 (s, 1H), 11.27 (s, 1H). 13C NMR (125 MHz, DMSO-d6): δ (ppm) 40.0, 43.4, 51.5, 96.7, 106.8, 123.5, 124.9, 128.3, 129.6, 138.9, 144.2, 154.5.

reactant | 5-bromo-2-nitro-N-phenylbenzenamine | 3.4 mmol, 1.0 g | BrC=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
reactant | 1-methylpiperazine | 13.6 mmol, 1.50 ml | CN1CCNCC1 | C5H12N2
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | 5-(4-methylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 0.50 g, 49% | CN1CCN(CC1)C=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C17H20N4O2
